US06509328B1
{2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4-thiophen-3-yl-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-thiophen-3-yl-phenyl)-carbamic acid tert.-butyl ester (Example G6) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example J4) according the general procedure K. Obtained as a brown solid (104 mg) and used crude in the next step (Example 7).

reactant | (2-amino-4-thiophen-3-yl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CSC=C1)N)=O | C15H18N2O2S
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
product | {2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4-thiophen-3-yl-phenyl}-carbamic Acid tert.-Butyl Ester | 104 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CSC=C1)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C25H23N3O4S
